US07592358B2
5.1b. (2-{4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]phenoxy}ethyl)cyclopentylcyclopropylmethylamine
A mixture of 80.6 mg (0.20 mmol) of (2-{4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]phenoxy}ethyl)cyclopropylmethylamine, 35 μL (0.40 mmol) of cyclopentanone, and one drop of AcOH in 10 mL of THF was stirred for 15 minutes. 169.5 mg (0.80 mmol) of sodium triacetoxyborohydride was added and the mixture was stirred for 24 hours at RT. A further 17.5 μL of cyclopentanone and 85 mg of sodium triacetoxyborohydride were added and the mixture was again stirred for 24 hours at RT. The reaction mixture was diluted with water, made basic with saturated aqueous potassium carbonate solution, and the aqueous phase was extracted with EtOAc. The combined organic phases were dried over sodium sulfate and evaporated down in vacuo. The crude product was purified by column chromatography (silica gel, EtOAc/MeOH/conc. aqueous ammonia 98:2:0.2) and stirred with DIPE. Yield: 22 mg (23% of theoretical); C30H31ClN2O (M=471.033); calc.: molpeak (M+H)+: 471/473 (Cl); found: molpeak (M+H)+: 471/473 (Cl); HPLC-MS: 5.83 minutes (method B).

reactant | (2-{4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]phenoxy}ethyl)cyclopropylmethylamine | 0.20 mmol, 80.6 mg | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC=C(OCCNCC2CC2)C=C1 | C25H23ClN2O
reactant | cyclopentanone | 0.40 mmol, 35 μL | C1(CCCC1)=O | C5H8O
reactant | sodium triacetoxyborohydride | 0.80 mmol, 169.5 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | cyclopentanone | 17.5 μL | C1(CCCC1)=O | C5H8O
reactant | sodium triacetoxyborohydride | 85 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | AcOH | one drop | CC(=O)O | C2H4O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (2-{4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]phenoxy}ethyl)cyclopentylcyclopropylmethylamine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC=C(OCCN(CC2CC2)C2CCCC2)C=C1 | C30H31ClN2O
